data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1CCC([C:22]1(C)[Br:23])Br.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[C:22]1=[CH:21]CCC1Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CC(C1=CC=CC=C1)C(C(=C=C)OC)[O-:10].[Li+]>>[H:20][O:10]C(C(C)C1=CC=CC=C1)C(=C=C)OC.[OH-:21].[Li+] 10=20;20,21=21
CC[O:21][C:20](C(C)C)([O-:10])OC>>CC[O-:21].CC(C)[C:20](=[O:10])OC 10=20;20,21=21
C[CH:20]=[N+:21](C)C.[OH2:10]>>C[CH:20]([N:21](C)C)[OH2+:10] 10=20;20,21=21
[H:20][O:21][C:22](=[O:23])C.CCOC(=O)C1=C([NH2+]C2(C1C=C(C=C2)O)[O-:10])COC.CCOC(=O)C>>[H:20][O:10]C12C=CC(=CC1C(=C([NH2+]2)COC)C(=O)OCC)O.C[C:22](=[O:21])[O-:23].CCOC(=O)C 10=20;22,23=23;20,21=21,22
CC(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.O[S+:20](=O)=O>>CC(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[H:20][O+:21]=C(C)C(=CCC(C)CC)C(=O)OCC.C1CC[NH:10]CC1.CC(=O)[O-].O>>[H:20][NH+:10]1CCCCC1.CCC(C)CC=C(C(=[O:21])C)C(=O)OCC.CC(=O)[O-].O 10=20;20,21=21
CC1=C(NC(=C1CCC(=O)OC)C)[CH:20]([OH+:21]C)[O:10]C.CO.C(=O)(C(F)(F)F)[O-].O>>CC1=C(NC(=C1CCC(=O)OC)C)[CH:20]=[O+:10]C.C[OH:21].CO.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
C1=CC(=CC=C1C[C:20]#[NH+:21])O.C1=C(C=C([CH:10]=[C:11]1[OH:12])O)O.CCOCC.O.OS(=O)(=O)[O-]>>C1=CC(=CC=C1C[C:20](=[NH:21])[CH:10]2C(=CC(=C[C:11]2=[OH+:12])O)O)O.CCOCC.O.OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][Br:21].CC1CCCC([CH:10]=[C:11]1C)C2=CC=CC=C2>>[H:20][CH:10]1C(CCCC([C+:11]1C)C)C2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21
CC[Si-:10](CC)(CC)(OC1=CC2CCC(C23CCC(=C)C1C3)C)[O:11]S(=O)(=O)C(F)(F)F.CC[NH+](CC)CC>>CC[Si:10](CC)(CC)OC1=CC2CCC(C23CCC(=C)C1C3)C.C(F)(F)(F)S(=O)(=O)[O-:11].CC[NH+](CC)CC 10,11=11
[H:20][O+:21](CC)C(C=C)([O-])Cl.[OH2:10]>>[H:20][OH2+:10].CC[O:21]C(C=C)([O-])Cl 10=20;20,21=21
C[CH:10]=[C:11](NC)[O-:12].[Br:20][Br:21]>>C[CH:10]([C:11](=[O:12])NC)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=CC(=C[CH+:22]1)Cl)C(C2=CC=C(C=C2)Cl)C(Cl)(Cl)Cl.OS(=O)(=O)[O-:10].O>>C1=CC(=CC=C1C([C:21]2=[CH:22]C=C(C=C2)Cl)C(Cl)(Cl)Cl)Cl.[H:20][O:10]S(=O)(=O)O.O 10=20;20,21=21,22
C[C:20]1(C([Br+:21]1)C2=CC=CC=C2)C.[OH2:10]>>C[C:20](C)(C(C1=CC=CC=C1)[Br:21])[OH2+:10] 10=20;20,21=21
[H:20][O+:21]=CCC1=CC=CC=C1.[OH2:10]>>[H:20][OH2+:10].C1=CC=C(C=C1)CC=[O:21] 10=20;20,21=21
[H:20][C:21]1=[C:22](C(=CC=C1)C)[Br:23].[NH2-:10]>>[H:20][NH2:10].CC1=CC=C[C:21]#[C:22]1.[Br-:23] 10=20;22,23=23;20,21=21,22
[B-:10]12(OC(C(C(=[O+:11]1)C)C)C3=CC=CC=C3)OC(C(O2)(C)C)(C)C>>[B:10]1(OC(C(O1)(C)C)(C)C)OC(C2=CC=CC=C2)C(C)C(=[O:11])C 10,11=11
[H:20][OH2+:21].C1CCC2(C(C1)CCC[NH:10]2)O>>[H:20][NH+:10]1CCCC2C1(CCCC2)O.[OH2:21] 10=20;20,21=21
[CH2:10]=[CH:11][OH:12].C1=CC=C(C=C1)[CH:20]=[OH+:21]>>C1=CC=C(C=C1)[CH:20]([CH2:10][CH:11]=[OH+:12])[OH:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)C(F)(F)F.[OH2:10]>>[H:20][OH2+:10].C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
CO[C:20](=[O:21])C1=CC=CC=C1.[OH-:10]>>CO[C:20](C1=CC=CC=C1)([OH:10])[O-:21] 10=20;20,21=21
[H:20][O+:21]=C(CCC(C)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C)OC.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>[H:20][OH2+:10].CC(CCC(=[O:21])OC)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
CCOC(=O)[CH-:10][C:20](=C)[P+:21](CC)(CC)CC>>CCOC(=O)[CH:10]=[C:20]=C.CC[P:21](CC)CC 10=20;20,21=21
[PH3+:20][S-:10]>>[PH3:20]=[S:10] 10=20,
CC(CC1[C:20]2([S+:21]1C3=CC=CC=C3)CCOCC2)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1CC([C:20]2([OH+:10]1)CCOCC2)[S:21]C3=CC=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[B-]([O:10]C)(F)(F)F.CC[O+:21]=[CH2:20]>>[B-]([O+:10](C)[CH2:20][O:21]CC)(F)(F)F 10=20;20,21=21
[H:20][C:21]12C(C3C(C(CN3C(=O)[C+:22]1C=CN2C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)NC(=O)OCC4=CC=CC=C4.C1=CC2=C(C=C1)C3=C(C=C2)OP(=O)(OC4=CC=C5C=CC=CC5=C43)[O-:10].O>>[H:20][O:10]P1(=O)OC2=C(C3=C(C=CC=C3)C=C2)C4=C5C=CC=CC5=CC=C4O1.CC(C)(C)OC(=O)N1C=C[C:22]2=[C:21]1C(C3C(C(CN3C2=O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)NC(=O)OCC4=CC=CC=C4.O 10=20;20,21=21,22
[H:20][O+:21]=C(C1(CCC2=C(C(=C(C(=C2O1)C)C)O)C)C)OC.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>[H:20][OH2+:10].CC1=C(C(=C2CCC(OC2=C1C)(C)C(=[O:21])OC)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
[H:20][CH:21](C1=CC=C2C(=C1OC)C(=O)C3=C(C=CC=C3C2=O)OC)[O:22][S+:23](C)[CH2-:10].C(=O)(O)O.[Br-]>>[H:20][CH2:10][S:23]C.COC1=C2C(=CC=C1)C(=O)C3=CC=C(C(=C3C2=O)OC)[CH:21]=[O:22].C(=O)(O)O.[Br-] 10=20;22,23=23;20,21=21,22
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]COC4=CC=C(C=C4)OCCO.[Br-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1OCCO)OC[CH2:20][Br:10].C(Br)(Br)Br 10=20;20,21=21,22
C1=CC=C(C=C1)C(=O)[CH2:20][Br:21].C(CO)[NH2:10]>>C1=CC=C(C=C1)C(=O)[CH2:20][NH2+:10]CCO.[Br-:21] 10=20;20,21=21
C[N:10]1CC[OH+:21][C:20]1(O)OC>>C[N+:10](=[C:20](O)OC)CC[OH:21] 10=20;20,21=21
CC#[C-:10].[I:20][I:21].CC[NH2+]CC>>CC#[C:10][I:20].[I-:21].CC[NH2+]CC 10=20;20,21=21
CC(=C)[O-:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CC(=C)[O:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
